US20010056109A1
(e) 1-Benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole
Titanium(IV)chloride (13.2 ml, 22.8 g, 0.12 mol) was added dropwise to a stirred suspension of activated zinc powder (15.9 g, 0.24 mol) in dry tetrahydrofuran (240 ml) at −5° C. -(−10° C.) under a nitrogen atmosphere. After completion of the addition the resulting mixture was refluxed for 2 hours with stirring. A solution of 6-methoxy-2-phenylindan-1-one (7.54 g, 0.032 mol) and 3-benzyl-3H-imidazole-4-carbaldehyde (7.37 g, 0.040 mol) in dry tetrahydrofuran (110 ml) was added dropwise to a refluxing mixture. After the addition the mixture was refluxed for 5 hours. Then the mixture was cooled to 50° C. and 50 ml of methanol and 25 ml of water was added, respectively. The cooled reaction mixture was made alkaline (pH 8-9) with 50% sodium hydroxide solution in water. The slurry was filtered through Celite, and the filtrate was evaporated to dryness under reduced pressure. Ethyl acetate (100 ml) was added to the residue and the mixture was heated. The cooled mixture was filtered and the filtrate was washed with water. The organic phase was dried and evaporated to dryness. The crude product was used in the next step.

reactant | 6-methoxy-2-phenylindan-1-one | 0.032 mol, 7.54 g | COC1=CC=C2CC(C(C2=C1)=O)C1=CC=CC=C1 | C16H14O2
reactant | 3-benzyl-3H-imidazole-4-carbaldehyde | 0.040 mol, 7.37 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | Titanium(IV)chloride | 0.12 mol, 13.2 ml, 22.8 g | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 0.24 mol, 15.9 g | [Zn] | Zn
solvent | water | 25 ml | O | H2O
product | 1-Benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C27H24N2O
